US08530476B2
4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-4-ylamide
The title compound was prepared from pyridin-4-yl-carbamic acid phenyl ester and 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 8.36-8.34 (d, J=6.8 Hz, 2H), 7.41-7.39 (d, J=5.8 Hz, 2H), 7.10 (s, 1H), 6.99 (s, 2H), 3.55-3.53 (m, 4H), 3.49 (s, 2H), 2.47-2.44 (m, 4H).

reactant | pyridin-4-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=CC=NC=C1)=O | C12H10N2O2
reactant | 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine | FC1(OC2=C(O1)C=CC(=C2)CN2CCNCC2)F | C12H14F2N2O2
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-4-ylamide | N1=CC=C(C=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OC(O2)(F)F)C=C1 | C18H18F2N4O3
